US06858638B2
N-[3-(2-Nitrophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide can be obtained as described in Example 47 from 620 mg of tert-butyl 3-iodo-5-(N-tert-butoxycarbonyl-2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate, 202 mg 2-nitrophenylboronic acid, 2 ml of a saturated aqueous sodium hydrogencarbonate solution, 31.7 mg of tetrakis(triphenylphosphine)palladium[0] and of 20 ml of dimethylformamide. 70 mg of N-[3-(2-nitrophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide are thus obtained in the form of a yellow solid (Rf=0.53 silica gel thin layer chromatography, eluent: dichloromethane/ethyl acetate (80-20 by volume)).

reactant | tert-butyl 3-iodo-5-(N-tert-butoxycarbonyl-2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate | 620 mg | IC1=NN(C2=CC=C(C=C12)N(C(=O)OC(C)(C)C)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C24H28IN3O8S2
reactant | 2-nitrophenylboronic acid | 202 mg | [N+](=O)([O-])C1=C(C=CC=C1)B(O)O | C6H6BNO4
reactant | sodium hydrogencarbonate | 2 ml | C(O)([O-])=O.[Na+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane ethyl acetate | ClCCl.C(C)(=O)OCC
product | N-[3-(2-nitrophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide | 70 mg | [N+](=O)([O-])C1=C(C=CC=C1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C20H16N4O6S2
